US06777428B1
[(3-methoxyphenyl)(1-methyl(piperid-4-yl)]methanol
A mixture of 4-[3-methoxybenzoyl]-1-methylpyridine iodide (730 mg, 2.1 mmol) and platinum oxide (100 mg, 0.44 mmol) in methanol was stirred under a hydrogen atmosphere for 2 h. The catalyst was filtered and washed with methanol then water. The filtrate was concentrated under reduced pressure. The resulting residue was dissolved in methylene chloride, washed with 1N sodium hydroxide, dried over sodium sulfate and concentrated in vacuo to give 490 mg of a clear colorless oil. Purification by radial chromatography (silica gel, 2000 micron rotor, methylene chloride:methanol:ammonium hydroxide, 100:10:1) gave 425 mg (87%) of a white solid. Mp 102-104° C. MS(m/e): 235(M+).

reactant | 4-[3-methoxybenzoyl]-1-methylpyridine iodide | 2.1 mmol, 730 mg | [I-].COC=1C=C(C(=O)C2=CCN(C=C2)C)C=CC1
solvent | methanol | CO | CH4O
catalyst | platinum oxide | 0.44 mmol, 100 mg | [Pt]=O
product | (3-methoxyphenyl)(1-methyl(piperid-4-yl)]methanol | 490 mg | COC=1C=C(C=CC1)C(O)C1CCN(CC1)C | C14H21NO2
